US08202876B2
A mixture of 4-Chloro-6-methylsulfanyl-pyrimidine (1.1 g, 6.85 mmol), hydrazine monohydrate (1.2 g, 23.5 mmol), and 2-propanol (10 mL) is heated to 90° C. for 4 hours. The reaction mixture is then cooled to room temperature, concentrated, triturated with water, and filtered. The undissolved solid is washed with water, air-dried to give (6-Methylsulfanyl-pyrimidin-4-yl)-hydrazine as light yellow solid: 1H NMR 400 MHz (d6-DMSO) δ 8.29 (s, 1H), 8.16 (s, 1H), 6.55 (s, 1H), 4.34 (s, 2H), 2.43 (s, 3H); MS m/z 157.05 (M+1).

reactant | 4-Chloro-6-methylsulfanyl-pyrimidine | 6.85 mmol, 1.1 g | ClC1=NC=NC(=C1)SC | C5H5ClN2S
reactant | hydrazine monohydrate | 23.5 mmol, 1.2 g | O.NN
solvent | 2-propanol | 10 mL | CC(C)O | C3H8O
product | (6-Methylsulfanyl-pyrimidin-4-yl)-hydrazine | CSC1=CC(=NC=N1)NN | C5H8N4S
